US03998834
A mixture of 2.06 parts of 3-bromo-1-propene, 4.6 parts of ethyl 4-[(1-oxopropyl)phenylamino]-4-piperidinecarboxylate, 2,4 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed for 5 hours. After cooling to room temperature, the reaction mixture is poured onto water. The organic phase is separated, washed with water, dried, filtered and evapoarated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaorated. The oily residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and crystallized from 8 parts of 2-propanol. The product is filtered off and dried, yielding 3.8 parts of ethyl 4-[(1-oxopropyl)phenylamino]-1-(2-propenyl)-4-piperidinecarboxylate ethanedioate; mp. 152.9° C.

reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
reactant | ethyl 4-[(1-oxopropyl)phenylamino]-4-piperidinecarboxylate | O=C(CC)N(C1(CCNCC1)C(=O)OCC)C1=CC=CC=C1 | C17H24N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | ethyl 4-[(1-oxopropyl)phenylamino]-1-(2-propenyl)-4-piperidinecarboxylate ethanedioate | C(C(=O)O)(=O)O.O=C(CC)N(C1(CCN(CC1)CC=C)C(=O)OCC)C1=CC=CC=C1 | InChI=1S/C20H28N2O3.C2H2O4/c1-4-14-21-15-12-20(13-16-21,19(24)25-6-3)22(18(23)5-2)17-10-8-7-9-11-17;3-1(4)2(5)6/h4,7-11H,1,5-6,12-16H2,2-3H3;(H,3,4)(H,5,6)
